US04346088
4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-(4-methylphenyl-imino)-4-thiazoline hydrobromide
0.02 mole (9.8 g) of 4-(4-chloro-3-sulfamoylphenyl)-3-methyl-2-(4-methylphenyl-imino)-thiazolidin-4-ol hydrobromide are boiled in 120 ml of ethanol for 2 hours under reflux. After cooling to room temperature, 200 ml of diisopropyl ether are added and the crystals are filtered off. Melting point 265° C. (with decomposition).

reactant | 4-(4-chloro-3-sulfamoylphenyl)-3-methyl-2-(4-methylphenyl-imino)-thiazolidin-4-ol hydrobromide | 0.02 mole, 9.8 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC=C(C=C1)C)C)O)S(N)(=O)=O
reactant | diisopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-(4-methylphenyl-imino)-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=C(C=C1)C)C)S(N)(=O)=O | InChI=1S/C17H16ClN3O2S2.BrH/c1-11-3-6-13(7-4-11)20-17-21(2)15(10-24-17)12-5-8-14(18)16(9-12)25(19,22)23;/h3-10H,1-2H3,(H2,19,22,23);1H
